US06900216B2
1-(Benzo[b]thiophen-4-yl)propan-1-one (32.3 g; prepared in a manner similar to that described above) was reacted with phenyltrimethylammonium tribromide (63.9 g) followed by 2-imidazolidinethione (17.4 g) using methodology similar to that described in Example 9 Method A to give 3-(benzo[b]thiophen-4-yl)-2-methyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (46.8 g) as a colourless solid, m.p. 262-264° C. This was combined with a sample of 3-(benzo[b]thiophen-4-yl)-2-methyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (25.4 g) prepared according to the methodology described in Example 9 Method A. The combined sample was then basified and converted into the hydrochloride salt in a manner similar to that described in Example 9 Method A to give 3-(benzo[b]thiophen-4-yl)-2-methyl-5,6-dihydroimidazo[2,1-b]thiazole hydrochloride (46.8 g) as a colourless solid, m.p. 242-245° C.

reactant | 1-(Benzo[b]thiophen-4-yl)propan-1-one | S1C2=C(C=C1)C(=CC=C2)C(CC)=O | C11H10OS
reactant | phenyltrimethylammonium tribromide | 63.9 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | 2-imidazolidinethione | 17.4 g | N1C(NCC1)=S | C3H6N2S
product | 3-(benzo[b]thiophen-4-yl)-2-methyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 46.8 g | Br.S1C2=C(C=C1)C(=CC=C2)C=2N1C(SC2C)=NCC1 | InChI=1S/C14H12N2S2.BrH/c1-9-13(16-7-6-15-14(16)18-9)11-3-2-4-12-10(11)5-8-17-12;/h2-5,8H,6-7H2,1H3;1H
